US07858624B2
(R)-tert-butyl 2-((S)-(2-acetamidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate (202 mg, 0.42 mmol) was dissolved in 20% TFA in CH2Cl2 (8 mL) and stirred for about 1 h at rt. The mixture was neutralized with satd aq NaHCO3 and the product was extracted with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated to give N-(2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)((R)-morpholin-2-yl)methoxy)ethyl)acetamide (130 mg, 82%). 1H NMR (300 MHz, CDCl3): δ=1.98 (s, 3 H), 2.39 (s, 3 H), 2.90˜3.3 (m, 6 H), 3.31˜3.41 (m, 2 H), 3.6˜4.0 (m, 3 H), 4.33 (d, 1 H), 6.56˜6.57 (s, 1 H), 6.97˜7.14 (m, 3 H), 7.27˜7.40 (m, 4 H), 9.40˜9.55 (s, 1H). MS (E/Z): 387 (M+H+).

reactant | (R)-tert-butyl 2-((S)-(2-acetamidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate | 0.42 mmol, 202 mg | C(C)(=O)NCCO[C@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C | C27H35FN2O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | N-(2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)((R)-morpholin-2-yl)methoxy)ethyl)acetamide | 130 mg, 82% | FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@H](OCCNC(C)=O)[C@H]1CNCCO1 | C22H27FN2O3
